US04876393
28.0 g (0.22 mole) of sulphuryl chloride in 60 ml of dichloromethane are added dropwise with stirring to 39.0 g (0.2 mole) of 4-n-butoxy-1,1,1-trifluoro-but-3-en-2-one in 200 ml of dichloromethane at 0° C. After stirring for 4 hours at 0° C., the solvent and unreacted sulphuryl chloride are distilled off and the residue is distilled slowly under reduced pressure. 42.5 g of pale yellow 4-n-butoxy-3-chloro-1,1,1-trifluorobut-3-en-2-one of boiling point 105°-106° C./12 mbar, nD20 =1.4484 are obtained.

reactant | sulphuryl chloride | 0.22 mole, 28.0 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 4-n-butoxy-1,1,1-trifluoro-but-3-en-2-one | 0.2 mole, 39.0 g | C(CCC)OC=CC(C(F)(F)F)=O | C8H11F3O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 4-n-butoxy-3-chloro-1,1,1-trifluorobut-3-en-2-one | 42.5 g | C(CCC)OC=C(C(C(F)(F)F)=O)Cl | C8H10ClF3O2
